US05969145
500 mg (7.34 mmol, 1 equivalent) of 3-methyl-1,2-butadiene is slowly added in drops to a suspension, cooled to -25° C., of Ipc2BH (7.34 mmol, produced from (-)--pinene [99%, 97% ee] H. C. Brown, M. C. Desai, P. K. Jadhav, J. Org. Chem. 1982, 47, 5065-5069; H. C. Brown, B. Singaram, J. Org. Chem. 1984, 49, 945-947, also available from ALDRICH) in 2.6 ml of THF, and the reaction mixture is stirred for 6 hours at -25° C. The THF is then pumped off at room temperature (14 mm of Hg/1 hour), (0.5 mm/2 hours), and the residue is dissolved in 10.5 ml of diethyl ether. The solution is cooled to -78° C., and 1.382 g (7.34 mmol, 1 equivalent) of aldehyde 42 is added in drops. It is dissolved while being stirred for 12 hours at -78° C. and then allowed to heat to room temperature. The reaction mixture is mixed with 10.7 ml of 3N NaOH solution, then heated under reflux with 4.4 ml of 30% H2O2 solution for 2 hours. The organic phase is separated, washed with 15 ml of H2O and 15 ml of saturated NaCl solution, dried on MgSO4 and concentrated by evaporation. The residue is purified by column chromatography with pentane:ether=2:1, and 800 mg (3.098 mmol) of alcohol 43, corresponding to a yield of 42%, is obtained.

reactant | 3-methyl-1,2-butadiene | 7.34 mmol, 500 mg, 1 equivalent | CC(=C=C)C | C5H8
reactant | Ipc2BH | [B](C1CC2CC(C1C)C2(C)C)C3CC4CC(C3C)C4(C)C | C20H34B
product | (-)--pinene | 99% | C12=C(CCC(C1(C)C)C2)C | C10H16
